US08293735B2
To a solution of 4-azetidin-1-yl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (0.66 g. 2.21 mmol) in anhydrous DMF (13 mL) was added formamide (370 μL, 9.32 mmol). The mixture was heated to 100° C. and a solution of sodium methoxide in MeOH (25 w/w. 330 μL, 1.44 mmol) was added with heating being continued for 2 h. The reaction mixture was cooled to RT, then loaded onto an Isolute® SCX-2 cartridge. The cartridge was washed with MeOH then eluted with 2 M NH3 in MeOH to give 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester. To a solution of 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester in DCM (40 mL) was added TFA (5 mL) and the resulting mixture was stirred at RT for 1 h. The reaction mixture was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to give a 1:1 cis:trans mixture of the title compound as a colourless oil (280 mg, 69%).

reactant | 4-azetidin-1-yl-piperidine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 2.21 mmol, 0.66 g | COC(=O)C1CN(CCC1N1CCC1)C(=O)OC(C)(C)C | C15H26N2O4
reactant | formamide | 9.32 mmol, 370 μL | C(=O)N | CH3NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | MeOH | 1.44 mmol, 330 μL | CO | CH4O
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 4-azetidin-1-yl-3-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(CC1)N1CCC1)C(N)=O | C14H25N3O3
